US04238494
α-Aminoacetophenone hydrochloride (6.87g, 0.040 mol) was mixed with 1-nitro-2-methylthio-2-methylsulphinylethylene (7.25g, 0.040 mol) in 300 ml dry methanol and warmed at 60°. Sodium methoxide (from 0.92g sodium, 0.080g atom) in methanol (25 ml) was added dropwise, with stirring, over about 10 minutes. After addition, the mixture was stirred at 60° for one hour, and then filtered to give 2-methylthio-3-nitro-4-phenylpyrrole 5.66g, m.p. 259-261° dec.

reactant | α-Aminoacetophenone hydrochloride | 0.040 mol, 6.87g | Cl.NCC(=O)C1=CC=CC=C1
reactant | 1-nitro-2-methylthio-2-methylsulphinylethylene | 0.040 mol, 7.25g | [N+](=O)([O-])C=C(S(=O)C)SC | C4H7NO3S2
reactant | Sodium methoxide | 0.92g | C[O-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | 2-methylthio-3-nitro-4-phenylpyrrole | 5.66g | CSC=1NC=C(C1[N+](=O)[O-])C1=CC=CC=C1 | C11H10N2O2S
